US09034900B2
Step 1: 5-bromo-3,4-dimethyl-1H-pyridin-2-one
To a mixture of 5-bromo-3,4-dimethylpyridin-2-amine (0.6 g, 3.0 mmol) and H2SO4 (98%, 1.62 mL) and H2O (18 mL) is added a solution of NaNO2 (243.6 mg, 4.2 mmol) in H2O (1.6 mL) drop-wise at 0° C. Then, it was stirred at 31° C. for 30 minutes and filtered. The resulting solid is washed with water to provide the title compound (375.0 mg, 62%) as a white solid. 1H NMR (CDCl3, 400 MHz) δ 7.48 (s, 1H), 2.32 (s, 3H), 2.19 (s, 3H). LCMS (M+H)+ 202.

reactant | 5-bromo-3,4-dimethylpyridin-2-amine | 3.0 mmol, 0.6 g | BrC=1C(=C(C(=NC1)N)C)C | C7H9BrN2
reactant | H2SO4 | 1.62 mL | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 4.2 mmol, 243.6 mg | N(=O)[O-].[Na+]
solvent | H2O | 1.6 mL | O | H2O
solvent | H2O | 18 mL | O | H2O
product | 5-bromo-3,4-dimethyl-1H-pyridin-2-one | 375.0 mg, 62% | BrC=1C(=C(C(NC1)=O)C)C | C7H8BrNO
